US06528525B1
2-(4-Isopropylphenoxy)-2-methyl-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 34-3 compound)
In a similar manner to that described in Example 6, ethyl 2-(4-isopropylphenoxy)-2-methyl-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (486 mg), which is the product of Example 17, was reacted with aqueous potassium hydroxide solution (85%, 0.17 g) and the reaction mixture was treated. The residue was washed with diisopropyl ether to give the title compound (335 mg) as a white powder.

reactant | ethyl 2-(4-isopropylphenoxy)-2-methyl-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 486 mg | C(C)(C)C1=CC=C(OC(C(=O)OCC)(CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C)C=C1 | C35H38N2O5
reactant | potassium hydroxide | 0.17 g | [OH-].[K+]
product | 2-(4-Isopropylphenoxy)-2-methyl-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 335 mg | C(C)(C)C1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C)C=C1 | C33H34N2O5
